US05686486
Cyclopropyl (5-aminomethylthien-2-yl) carbinol (Formula SS-2) Refer to Chart SS
Thienylamine of formula SS-1 (0.95 mL) is dissolved in dry THF under a nitrogen atmosphere and cooled to -78° C. n-Butyllithium (Aldrich, 1.6M in hexane, 13.4 mL) is added and the reaction turned a deep purple color. The reaction is allowed to warm to 0° C. for 10 min, then recooled to -78° C. for the addition of the aldehyde (0.82 mL). A thick slurry forms and stirring becomes difficult. The reaction is allowed to warm to 0° C., then quenched with ammonium chloride solution (10 mL). The reaction is extracted with EtOAc (200 mL) and washed with water (2×40 mL) and brine. The organic phase is dried over MgSO4, filtered and concentrated in vacuo. Chromatography over silica gel (300 g) eluting with 5% MeOH in CH2Cl2 gives the title product (356 mg) as a colorless oil.

reactant | Thienylamine | S1C(=CC=C1)N | C4H5NS
reactant | SS-1 | 0.95 mL | C[N+](C)(C)C.C1=CC=C2C=C(C=CC2=C1)C(=S)[S-]
reactant | n-Butyllithium | 1.6M, 13.4 mL | C(CCC)[Li]
reactant | THF | C1CCOC1 | C4H8O
product | Cyclopropyl (5-aminomethylthien-2-yl) carbinol | 356 mg | C1(CC1)C(O)C=1SC(=CC1)CN | C9H13NOS
